US05281593
ii) 3-[α-Chloro-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]benzonitrile
A suspension of the 3-[α-hydroxy-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]benzonitrile (1.4 g, 3.87 mmol) in dichloromethane (75 ml) was stirred with concentrated hydrochloric acid (75 ml) for 3 hours, diluted with water and neutralised with saturated sodium bicarbonate solution. The aqueous layer was extracted with further dichloromethane and the combined solvent was dried and evaporated to a pale solid.

reactant | 3-[α-hydroxy-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]benzonitrile | 3.87 mmol, 1.4 g | OC(C1=CC(=CC=C1)\C=C\C1=NC2=CC=CC=C2C=C1)C=1C=C(C#N)C=CC1 | C25H18N2O
reactant | hydrochloric acid | 75 ml | Cl | ClH
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-[α-Chloro-3-{2(E)-(quinolin-2-yl)ethenyl}benzyl]benzonitrile | ClC(C1=CC(=CC=C1)\C=C\C1=NC2=CC=CC=C2C=C1)C=1C=C(C#N)C=CC1 | C25H17ClN2
